US04000151
In the manner given in Example 10, 5-chloro-2',6'-difluoro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is reacted with a saturated solution of ammonia in methanol to give 8-chloro-1-methyl-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 126°-127° C. (decomposition).

reactant | 5-chloro-2',6'-difluoro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NN=C1C)CBr | C17H11BrClF2N3O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 8-chloro-1-methyl-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3F)F)C1 | C17H11ClF2N4
